US07696365B2
Preparation of 4,6-dibromo-3-carboxy-5-hydroxybenzofuran
Preparation of 3-bromo-2-carboxy-5-methoxybenzofuran 2-Carboxy-5-methoxybenzofuran (2.00 g, 10.41 mmol) was suspended in carbon disulfide (70 ml) and bromine (1.18 ml, 22.96 mmol) was added. The mixture was refluxed 48 hours. The crude product was isolated by evaporation of solvent in vacuo. 2.64 g (96%). 1H NMR (CD3OD) δ3.94 (s, 3H), 7.28 (d, 1H), 7.48 (s, 1H), 7.57 (d, 1 H). Step 2: Preparation of 3-bromo-5-methoxybenzofuran 3-Bromo-2-carboxy-5-methoxybenzofuran (1.36 g, 5.02 mmol), powdered copper (371 mg, 5.84 mmol), and quinoline (16 ml) were combined and heated to 210° C. for 0.5 hours. After the mixture cooled to ambient temperature the solids were removed by filtration through celite. The filtrate was diluted with dichloromethane and washed three times with 1 M aqueous hydrochloric acid, once with aqueous sodium bicarbonate, and once with brine. The organic phase was dried over sodium sulfate, concentrated in vacuo, and purified by column chromatography (SiO2 gel, 6:1 hexanes/ethyl acetate) to yield 708 mg (62%). 1H NMR (CDCl3) δ3.94 (s, 3H), 6.79 (d, 1H), 6.96 (s, 1 H), 7.34 (dd, 1H), 7.64 (d, 1H). Step 3: Preparation of 3-carboxy-5-methoxybenzofuran. A 2.5 M solution of n-butyl lithium (5.6 ml, 2.24 mmol) in hexanes was added dropwise to a solution of 3-bromo-5-methoxybenzofuran (483 mg, 2.13 mmol) in anhydrous THF at −78° C. the cooled reaction mixture was stirred for 0.5 hours under an atmosphere of nitrogen. Powdered CO2(s) was added and the mixture stirred an additional 0.5 hours before allowing it to warm to ambient temperature. After 0.5 hours the reaction was quenched with 2 M aqueous hydrochloric acid, concentrated in vacuo, and extracted with ethyl acetate. The organic layer was washed with water and dried over sodium sulfate. Purification by preparative TLC (3:2 hexanes/ethyl acetate) yielded 113 mg (9%). 1H NMR(CD3OD) δ3.84 (s, 3H), 6.94 (dd, 1H), 7.42 (d, 1H), 7.49 (d, 1H), 8.35 (s, 1H). Step 4: Preparation of 3-carboxy-5-hydroxybenzofuran 3-carboxy-5-methoxybenzofuran (128 mg, 0.666 mmol) was dissolved in anhydrous dichloromethane (25 ml) and cooled to −78° C. A 1 M solution of borontribromide (15.6 ml) in dichloromethane was added slowly. The reaction mixture was allowed to warm to ambient temperature under an atmosphere of nitrogen, and stirred 3 hours. The solution was quenched with aqueous ammonium chloride (20 ml) and extracted with ethyl acetate. The aqueous layer was washed with water and dried over sodium sulfate. 106 mg (89%) of crude product was obtained. 1H NMR(CD3OD) δ6.84 (dd, 1H), 7.36 (d, 1H), 7.39 (d, 1H), 8.32 (s, 1H). Step 5: Preparation of 4,6-dibromo-3-carboxy-5-hydroxybenzofuran 3-carboxy-5-hydroxybenzofuran (100 mg, 0.561 mmol) and potassium acetate (83 mg, 0.842 mmol) were dissolved in acetic acid (10 ml) and cooled to 0° C. Bromine (86 μl, 1.680 mmol) was and added slowly to the above solution and the reaction mixture was allowed to warm to ambient temperature under an atmosphere of nitrogen, stirring 3 hours. The reaction was quenched with aqueous sodium thiosulfate, extracted with ethyl acetate, washed with water and dried over sodium sulfate. Concentration in vacuo yielded a tan solid which was washed with hexanes to yield 155 mg (82%). 1H NMR(CD3OD) δ 7.83 (s, 1H), 8.37 (s, 1H).

reactant | 4,6-dibromo-3-carboxy-5-hydroxybenzofuran 3-carboxy-5-hydroxybenzofuran | 0.561 mmol, 100 mg | C(=O)(O)C1=COC2=C1C=C(C=C2)O.BrC2=C(C(=CC1=C2C(=CO1)C(=O)O)Br)O
reactant | potassium acetate | 0.842 mmol, 83 mg | C(C)(=O)[O-].[K+]
reactant | Bromine | 1.680 mmol, 86 μl | BrBr | Br2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 4,6-dibromo-3-carboxy-5-hydroxybenzofuran | BrC1=C(C(=CC2=C1C(=CO2)C(=O)O)Br)O | C9H4Br2O4
